US05891889
Step D: Preparation of 4-(3-trifluoromethoxybenzyl)-4-hydroxymethylpiperidine hydrochloride salt
A solution of N-tert-butoxycarbonyl-4-(3-trifluoromethoxy-benzyl)-4-hydroxymethylpiperidine (2.9 g) in dichloromethane (100 mL) at 0° C. was saturated with hydrogen chloride gas. The resultant solution was sealed with a rubber septum and stirred at room temp. for 2.5 h. The product solution was concentrated under vacuum to provide the title compound.

reactant | N-tert-butoxycarbonyl-4-(3-trifluoromethoxy-benzyl)-4-hydroxymethylpiperidine | 2.9 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(CO)CC1=CC(=CC=C1)OC(F)(F)F | C19H26F3NO4
reactant | hydrogen chloride | Cl | ClH
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 4-(3-trifluoromethoxybenzyl)-4-hydroxymethylpiperidine hydrochloride salt | Cl.FC(OC=1C=C(CC2(CCNCC2)CO)C=CC1)(F)F | InChI=1S/C14H18F3NO2.ClH/c15-14(16,17)20-12-3-1-2-11(8-12)9-13(10-19)4-6-18-7-5-13;/h1-3,8,18-19H,4-7,9-10H2;1H
